US07652041B2
Step 2: Preparation of 4-chloro-2-methoxy-3-(trifluoromethyl)aniline
To a solution of 1-chloro-3-methoxy-4-nitro-2-(trifluoromethyl)benzene (1.73 g, 6.74 mmol) in EtOAc (40 mL) was added tin chloride dihydrate (3.04 g, 13.5 mmol). The reaction mixture was heated at reflux for 3 h. The crude reaction mixture was purified by column chromatography (SiO2, EtOAc in hexanes) to give the title compound. LCMS: (FA) ES+ 226.0 (M+1).

reactant | 1-chloro-3-methoxy-4-nitro-2-(trifluoromethyl)benzene | 6.74 mmol, 1.73 g | ClC1=C(C(=C(C=C1)[N+](=O)[O-])OC)C(F)(F)F | C8H5ClF3NO3
reactant | tin chloride dihydrate | 13.5 mmol, 3.04 g | O.O.[Sn](Cl)(Cl)(Cl)Cl
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
product | 4-chloro-2-methoxy-3-(trifluoromethyl)aniline | ClC1=C(C(=C(N)C=C1)OC)C(F)(F)F | C8H7ClF3NO
